US07425638B2
2-Ethoxy-4-trifluoromethyl-benzonitrile (64 g) was dissolved in 750 mL of anhydrous ethanol. The solution was cooled to 0° C. and saturated with hydrogen chloride gas. The reaction flask was then sealed with a Teflon stopper and stirred at room temperature for 11 d. The progress of the reaction was checked every few days, and the solution was saturated again with hydrogen chloride gas. Nitrogen gas was bubbled through the solution to remove excess hydrogen chloride gas. The solvent was removed and the residue was triturated in diethyl ether to afford ethyl 2-ethoxy-4-trifluoromethyl-benzimidate hydrochloride (59.5 g, 67% yield) as white solids.

reactant | 2-Ethoxy-4-trifluoromethyl-benzonitrile | 64 g | C(C)OC1=C(C#N)C=CC(=C1)C(F)(F)F | C10H8F3NO
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 750 mL | C(C)O | C2H6O
product | ethyl 2-ethoxy-4-trifluoromethyl-benzimidate hydrochloride | 59.5 g, 67% yield | Cl.C(C)OC1=C(C(OCC)=N)C=CC(=C1)C(F)(F)F | InChI=1S/C12H14F3NO2.ClH/c1-3-17-10-7-8(12(13,14)15)5-6-9(10)11(16)18-4-2;/h5-7,16H,3-4H2,1-2H3;1H
